US08049029B2
Preparation of 2-amino-5-bromo-N,3-dimethylbenzamide (a Compound of Formula 2)
A 1000-mL flask equipped with a mechanical stirrer, thermocouple, condenser and Teflon® fluoropolymer tubing ( 1/16″ (0.16 cm) I.D.×⅛″ (0.32 cm) O.D.) (positioned such that the end of the tubing was submerged below the surface of the reaction mixture) was charged with acetic acid (226 mL). A solution of aqueous sodium hydroxide (50%, 25 g) in water (85 g) was added over 15 minutes, and then 2-amino-N,3-dimethylbenzamide (50 g, 0.305 mol) (see PCT Publication WO 2006/062978 for a method of preparation) was added and the mixture was heated to 55° C. A two-necked 200-mL flask fitted on one neck with Teflon® tubing was charged with liquid bromine (50.1 g), and then the other neck was connected to the Teflon® tubing in the 1000-mL flask. Nitrogen gas was flowed through the Teflon® tubing below the surface of the liquid bromine at a rate of about 0.012 m3 (0.4 cu ft) per h for 2.5 h, during which time all of the liquid bromine evaporated and the bromine vapor entrained in the nitrogen gas flowed out of the two-necked 200-mL flask and entered the reaction mixture through the Teflon® tubing in the 1000-mL flask. The reaction temperature was held at about 55° C. during the bromine vapor addition and for 30 minutes thereafter, and then cooled to 45° C. and stirred overnight. A solution of aqueous sodium hydroxide (50%, 52 g) in water (88 mL) was added to the reaction mixture at a rate of 0.8 mL/minute. After about 10% of the total volume of the sodium hydroxide solution had been added, the addition was stopped and the reaction mixture was stirred at 45° C. for 1 h. After 1 h the remaining sodium hydroxide solution was added at rate of 0.8 mL/minute. After the addition was complete, the reaction mixture was stirred for 30 minutes at 45° C., and then cooled to 10° C. and stirred for 1 h. The mixture was filtered and the solid collected was washed with methanol (130 mL) and water (260 mL), and then dried to a constant weight in a vacuum-oven at 45° C. to give the title compound as a solid (67 g, 99.4 area % purity by HPLC, 89.7% yield) melting at 133-135° C.

reactant | acetic acid | 226 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 25 g | [OH-].[Na+]
reactant | 2-amino-N,3-dimethylbenzamide | 0.305 mol, 50 g | NC1=C(C(=O)NC)C=CC=C1C | C9H12N2O
reactant | bromine | 50.1 g | BrBr | Br2
solvent | water | 85 g | O | H2O
product | 2-amino-5-bromo-N,3-dimethylbenzamide | 67 g, 89.7% yield | NC1=C(C(=O)NC)C=C(C=C1C)Br | C9H11BrN2O
